US05691277
(2) Synthesis of 2-benzyloxy-4-cyano-6-(meta-trifluoromethylphenoxy)pyridine from the Intermediate
2-Benzyloxy-6-chloro-4-cyanopyridine (0.8 g, 0.0033 mol) and meta-trifluoromethyl phenol (0.58 g, 0.0033×1.1 mol) were dissolved in 20 ml of N-methyl-pyrrolidinone, and anhydrous potassium carbonate (0.5 g, 0.0033×1.1 mol) was added thereto and the resultant solution was stirred for about 2.5 hours at about 100° C.

reactant | 2-Benzyloxy-6-chloro-4-cyanopyridine | 0.0033 mol, 0.8 g | C(C1=CC=CC=C1)OC1=NC(=CC(=C1)C#N)Cl | C13H9ClN2O
reactant | meta-trifluoromethyl phenol | 1.1 mol, 0.58 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 1.1 mol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methyl-pyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 2-benzyloxy-4-cyano-6-(meta-trifluoromethylphenoxy)pyridine | C(C1=CC=CC=C1)OC1=NC(=CC(=C1)C#N)OC1=CC(=CC=C1)C(F)(F)F | C20H13F3N2O2
